US04120652
Preparation of 2,6-Dichlorobenzenesulfonyl Azide
To a solution of 15.0 g (0.61 mole) 2,6-dichlorobenzenesulfonyl chloride in 100 ml ethanol was added a solution of 5.2 g (0.79 mole) of sodium azide dissolved in a minimum amount of water. The solution was stirred 30 minutes and then poured into a 2 liter Erlenmeyer flask containing 500 ml of ice water. The resultant white solid was recrystallized from ethanol; yield 14.29 g (93% of theory). The purified product melted at 63°-64° C. (lit. 63°-64° C.).

reactant | 2,6-dichlorobenzenesulfonyl chloride | 0.61 mole, 15.0 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | sodium azide | 0.79 mole, 5.2 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,6-Dichlorobenzenesulfonyl Azide | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)N=[N+]=[N-] | C6H3Cl2N3O2S
